US08895545B2
(E)-N-methyl-N-((3-methylbenzofuran-2-yl)methyl)-3-(2,3,4,5-tetrahydro-1H-pyrido[2,3-b][1,4]diazepin-8-yl)acrylamide
A solution of 8-bromo-2,3,4,5-tetrahydro-1H-pyrido[2,3-b][1,4]diazepin (0.15 g, 0.66 mmol), N-methyl-N-((3-methyl benzofuran-2-yl)methyl)acrylamide (0.30 g, 1.32 mmol), (i-Pr)2EtN (0.34 mL, 2.0 mmol) tn DMF (7 mL) was de-oxygenated with Ar for 30 min. Pd(OAc)2 (15 mg, 0.066 mmol) and P(o-tol)3 (40 mg, 0.13 mmol) was added and the solution was de-oxygenated for an additional 15 min. The reaction was heated to 100° C. for 18 hrs at which time the reaction was cooled to room temperature and then filtered through a short-column of silica washing with EtOAc (20 mL). The filtrate was washed with brine (2×30 mL), dried (MgSO4) and the solvent removed in vacuo. Purification by column chromatography (silica gel, CH2Cl2/MeOH, 99:1) gave the title compound (111 mg, 45%) as a yellow powder; 1H NMR (400 MHz, DMSO-d6) δ7.75 (s, 1H), 7.56 (d, J=7.6 Hz, 1H), 7.48 (d, J=7.6, 1H), 7.43 and 7.39 (2×s, 1H), 7.35-7.22 (m, 3H), 7.08 and 6.82 (2×d, J=15, 1H), 6.22 (s, 1H), 5.25 (s, 1H), 4.90 and 478 (2×s, 2H), 3.14-2.93 (m, 7H), 2.26 (s, 3H), 1.68 (m, 2H); ESI MS m/z 377 [C22H24N4O2+H]+

reactant | 8-bromo-2,3,4,5-tetrahydro-1H-pyrido[2,3-b][1,4]diazepin | 0.66 mmol, 0.15 g | BrC1=CC2=C(NCCCN2)N=C1 | C8H10BrN3
reactant | N-methyl-N-((3-methyl benzofuran-2-yl)methyl)acrylamide | 1.32 mmol, 0.30 g | CN(C(C=C)=O)CC=1OC2=C(C1C)C=CC=C2 | C14H15NO2
reactant | (i-Pr)2EtN | 2.0 mmol, 0.34 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | P(o-tol)3 | 0.13 mmol, 40 mg | CC1=C(C=CC=C1)P(C2=C(C=CC=C2)C)C3=C(C=CC=C3)C | C21H21P
catalyst | Pd(OAc)2 | 0.066 mmol, 15 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
product | (E)-N-methyl-N-((3-methylbenzofuran-2-yl)methyl)-3-(2,3,4,5-tetrahydro-1H-pyrido[2,3-b][1,4]diazepin-8-yl)acrylamide | 111 mg, 45% | CN(C(\C=C\C1=CC2=C(NCCCN2)N=C1)=O)CC=1OC2=C(C1C)C=CC=C2 | C22H24N4O2
